US04243678
8.0 g of ethyl 4-(6-methoxybiphenyl-3-yl)aminobutyrate and, 3.3 g of ethyldiisopropylamine in 50 ml of benzene are reacted, analogously to Example 47b), with 4.6 g of p-chlorobenzoyl chloride. The reaction product is dissolved in 50 ml of benzene and, after the addition thereto of a solution of 2.3 g of potassium hydroxide in 20 ml of ethanol, is then stirred for 8 hours at room temperature. After distilling off the solvent, the residue is dissolved in water; the resulting solution is acidified with dilute hydrochloric acid and extracted with diethyl ether. The residue (remaining after evaporating off the ether) is recrystallized from ethyl acetate/petrol ether (1:1) to obtain 8.1 g (73.5% of theory) of 4-[p-chloro-N-(6-methoxybiphenyl-3-yl)-benzamido]butyric acid, MP 114° to 116°.

reactant | ethyl 4-(6-methoxybiphenyl-3-yl)aminobutyrate | 8.0 g | COC1=CC=C(C=C1C1=CC=CC=C1)NCCCC(=O)OCC | C19H23NO3
reactant | ethyldiisopropylamine | 3.3 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | p-chlorobenzoyl chloride | 4.6 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | potassium hydroxide | 2.3 g | [OH-].[K+]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-[p-chloro-N-(6-methoxybiphenyl-3-yl)-benzamido]butyric acid | 8.1 g, 73.5% | ClC1=CC=C(C(=O)N(C=2C=C(C(=CC2)OC)C2=CC=CC=C2)CCCC(=O)O)C=C1 | C24H22ClNO4
